US08022222B2
Benzoyl isothiocyanate (163 mg, 1.0 mmol) is added to a solution of 5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-amine (336 mg, 1.0 mmol) in dichloromethane (20 mL) at 0° C. The reaction mixture is warmed to room temperature and stirred for one hour. The reaction mixture is diluted with hexanes and filtered to afford N-(5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-ylcarbamothioyl)benzamide.

reactant | Benzoyl isothiocyanate | 1.0 mmol, 163 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-amine | 1.0 mmol, 336 mg | BrC=1C(=C(C(=NC1)N)Cl)OC1=C(C=CC=C1F)F | C11H6BrClF2N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(5-bromo-3-chloro-4-(2,6-difluorophenoxy)pyridin-2-ylcarbamothioyl)benzamide | BrC=1C(=C(C(=NC1)NC(=S)NC(C1=CC=CC=C1)=O)Cl)OC1=C(C=CC=C1F)F | C19H11BrClF2N3O2S
